US04622169
Nickel (II)-1,4-diamino anthraquinone
Nickel (II) chloride hexahydrate (0.5 g) is dissolved in dimethylformamide (25 ml) containing 1,4-diamino anthraquinone (0.5 g) and triethylamine (0.84 g). A precipitate forms and is collected and washed repeatedly with methylene chloride until the washings are colorless. The yield is 0.66 g of a dark blue-black powder having a conductivity of 4.72×10-3S/cm. Analysis shows a composition of C--59.34 percent, H--3.76 percent, N--9.38 percent, Ni--17.2 percent and Cl--2.6 percent.

reactant | Nickel (II) chloride hexahydrate | 0.5 g | O.O.O.O.O.O.[Ni](Cl)Cl
reactant | 1,4-diamino anthraquinone | 0.5 g | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | C14H10N2O2
reactant | triethylamine | 0.84 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | Nickel (II) 1,4-diamino anthraquinone | [Ni+2].NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | InChI=1S/C14H10N2O2.Ni/c15-9-5-6-10(16)12-11(9)13(17)7-3-1-2-4-8(7)14(12)18;/h1-6H,15-16H2;/q;+2
